US05952386
A reaction vessel was charged with 7.51 g of 3-amino-1-propanol, 2.53 g of triethylamine and 50 ml of dichloromethane, and 5.21 g of 4-trifluoromethylbenzoyl chloride was slowly added dropwise under ice cooling. After stirring at room temperature for 6 hours, the reaction mixture was successively washed with diluted hydrochloric acid and water, dried over anhydrous magnesium sulfate, and then concentrated, which afforded 5.25 g of 3-(4-trifluoromethylbenzamido)propan-1-ol (85% yield).

reactant | 3-amino-1-propanol | 7.51 g | NCCCO | C3H9NO
reactant | triethylamine | 2.53 g | C(C)N(CC)CC | C6H15N
reactant | 4-trifluoromethylbenzoyl chloride | 5.21 g | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-(4-trifluoromethylbenzamido)propan-1-ol | 5.25 g, 85% yield | FC(C1=CC=C(C(=O)NCCCO)C=C1)(F)F | C11H12F3NO2
